US07547710B2
A mixture of 6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (5.0 g, 15.8 mmol), 2-bromoethyl acetate (3.2 g, 19 mmol) and N,N-dimethylformamide (20 ml) was stirred at 50° C. for 15 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous-magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from diethyl ether and filtered to give 2-{[3-cyano-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}ethyl acetate (5.0 g, yield 79%) as crystals.

reactant | 6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 15.8 mmol, 5.0 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C21H20N2O
reactant | 2-bromoethyl acetate | 19 mmol, 3.2 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-{[3-cyano-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}ethyl acetate | 5.0 g, yield 79% | C(C)(=O)OCCOC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C25H26N2O3
